US07056937B2
[Exemplified by preparation of (R)-(3-Oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetic acid methyl ester]
A mixture of 2-(R)-(2-nitrophenylamino)succinic acid dimethyl ester (2.15 g, 7.62 mmol) (prepared above), and PtO2 (210 mg) in methanol (35 mL) was shaken on a Parr apparatus at 48 psi for 6 hours. The reaction was filtered through celite, rinsed with methanol and was evaporated in vacuo to a very sticky oil as the title compound (1.69 g, 100%): 1H NMR (CDCl3) δ=8.23 (bs, 1H), 6.91 (dt, 1H, J=1.8, 7.5 Hz), 6.80–6.70 (m, 3H), 4.74 (bs, 1H), 4.34 (dt, 1H, J2.4, 10.5 Hz), 3.75 (s, 3H), 3.14 (dd, 1H, J=2.4, 17.4 Hz), 2.75 (dd, 1H, J=10.5, 17.4 Hz).

reactant | 2-(R)-(2-nitrophenylamino)succinic acid dimethyl ester | 7.62 mmol, 2.15 g | COC([C@@H](CC(=O)OC)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H14N2O6
solvent | methanol | 35 mL | CO | CH4O
catalyst | PtO2 | 210 mg | O=[Pt]=O
product | (R)-(3-Oxo-1,2,3,4-tetrahydroquinoxalin-2-yl)-acetic acid methyl ester | COC(C[C@H]1NC2=CC=CC=C2NC1=O)=O | C11H12N2O3
